US08003785B2
To a mixture of 28.6 g (0.24 mole) benzotriazole and 17.6 g (0.24 mole) of cyclopentylamine in 1000 mL of ether was added dropwise, 19.5 mL (0.24 mole) of 37% aqueous formaldehyde. The reaction mixture was stirred at room temperature under for 18 hours. The mixture was dried over calcium chloride, filtered and concentrated under reduced pressure. Hexanes was added to the residue, concentrated under reduced pressure to give the crude benzotriazol-1-ylmethyl-cyclobutyl-amine as an oil, which was used in the next without further purification.

reactant | benzotriazole | 0.24 mole, 28.6 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | cyclopentylamine | 0.24 mole, 17.6 g | C1(CCCC1)N | C5H11N
reactant | formaldehyde | 0.24 mole, 19.5 mL | C=O | CH2O
solvent | ether | 1000 mL | CCOCC | C4H10O
product | benzotriazol-1-ylmethyl-cyclobutyl-amine | N1(N=NC2=C1C=CC=C2)CNC2CCC2 | C11H14N4
